US04028084
(a) N-(3'-chlorobenzyl)-2-cyanoacetamide
A solution of 38.5 g. (0.34 mole) of ethyl cyanoacetate and 48.1 g. (0.34 mole) of 3-chlorobenzylamine in 120 ml. of 95% ethanol is refluxed for 5 hours and then allowed to stand overnight at ambient temperature. Agitation causes crystallization. Filtration is followed by washing of the solid with a small amount of ether to give 28.7 g. of the desired product as small, white needles, m.p. 123°-5° C.

reactant | ethyl cyanoacetate | 0.34 mole | C(#N)CC(=O)OCC | C5H7NO2
reactant | 3-chlorobenzylamine | 0.34 mole | ClC=1C=C(CN)C=CC1 | C7H8ClN
solvent | ethanol | C(C)O | C2H6O
product | N-(3'-chlorobenzyl)-2-cyanoacetamide | ClC=1C=C(CNC(CC#N)=O)C=CC1 | C10H9ClN2O
